US09169239B2
N-Methyl-4-(2-mercapto-1,3-thiazol-4-yl)pyridinium bromide
0.69 g Ammonium dithiocarbamate were dissolved in 10 ml MeOH and 1.47 g 4-(2-bromoacetyl)-1-methylpyridinium bromide were added. After 2 h at ambient temperature the mixture was refluxed. After cooling the precipitate was filtered, washed with MeOH and dried.

reactant | Ammonium dithiocarbamate | 0.69 g | C(N)([S-])=S.[NH4+]
reactant | 4-(2-bromoacetyl)-1-methylpyridinium bromide | 1.47 g | [Br-].BrCC(=O)C1=CC=[N+](C=C1)C
solvent | MeOH | 10 ml | CO | CH4O
product | N-Methyl-4-(2-mercapto-1,3-thiazol-4-yl)pyridinium bromide | [Br-].C[N+]1=CC=C(C=C1)C=1N=C(SC1)S | InChI=1S/C9H8N2S2.BrH/c1-11-4-2-7(3-5-11)8-6-13-9(12)10-8;/h2-6H,1H3;1H
